US07989457B2
Step C. 2-Methyl-4′-trifluoromethyl-biphenyl-4-carboxylic acid methoxy-methyl-amide
Combine 2-methyl-4′-trifluoromethyl-biphenyl-4-carboxylic acid (2.31 g, 8.25 mmol) and di-imidazol-1-yl-methanone (1.47 g, 9.08 mmol) in tetrahydro-furan (15 mL) and stir twenty minutes. In a separate reaction vessel, combine O,N-dimethyl-hydroxylamine hydrochloride (0.885 g, 9.08 mmol) and triethyl-amine (1.3 mL, 9.08 mmol) in N,N-dimethyl-formamide (20 mL). Add O,N-dimethyl-hydroxylamine solution to the 2-methyl-4′-trifluoromethyl-biphenyl-4-carboxylic acid solution and stir sixteen hours. Dilute reaction with ethyl acetate, wash with 0.5 N HCl, 0.1N NaOH, and saturated sodium chloride solution. Dry organic fraction with Na2SO4, filter and concentrate under reduced pressure to provide 0.6 g (23%) of title compound.

reactant | 2-methyl-4′-trifluoromethyl-biphenyl-4-carboxylic acid | 8.25 mmol, 2.31 g | CC1=C(C=CC(=C1)C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C15H11F3O2
reactant | di-imidazol-1-yl-methanone | 9.08 mmol, 1.47 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | O,N-dimethyl-hydroxylamine hydrochloride | 9.08 mmol, 0.885 g | Cl.CONC
reactant | triethyl-amine | 9.08 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
reactant | O,N-dimethyl-hydroxylamine | CONC | C2H7NO
solvent | tetrahydro-furan | 15 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethyl-formamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Methyl-4′-trifluoromethyl-biphenyl-4-carboxylic acid methoxy-methyl-amide | 0.6 g, 23% | CON(C(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C)C | C17H16F3NO2
